US04017542
10 g of 10% strength palladium on charcoal, poisoned with quinoline-sulphur, are added to a solution of 46 g of 9 -(chlorocarbonylmethyl)-9,10-dihydro-9,10-ethano-anthracene in 200 ml of xylene, and hydrogen is then passed through the mixture at 120° C. After 7 hours, the catalyst is filtered off and the filtrate is evaporated in vacuo. The residue is dissolved in methylene chloride and extracted by shaking with sodium carbonate solution. The organic phase is separated off, dried over sodium sulphate and then diluted to a volume of 250 ml by adding methylene chloride. After 1 ml of triethylamine has been added, 20 ml of hydrogen cyanide are added and the mixture is left to stand for 12 hours at room temperature. It is then extracted by shaking with water and the solvent is evaporated. Crystalline 9-(2-hydroxy-2-cyano-ethyl)-9,10-dihydro-9,10-ethano-anthracene is obtained as the residue and after recrystallisation from methylene chloride-petroleum ether has a melting point of 139°-141° C.

reactant | quinoline sulphur | N1=CC=CC2=CC=CC=C12.[S]
reactant | 9 -(chlorocarbonylmethyl)-9,10-dihydro-9,10-ethano-anthracene | 46 g | ClC(=O)CC12C3=CC=CC=C3C(C=3C=CC=CC13)CC2 | C18H15ClO
reactant | hydrogen | [H][H] | H2
catalyst | palladium on charcoal | [Pd] | Pd
solvent | xylene | 200 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 9-(2-hydroxy-2-cyano-ethyl)-9,10-dihydro-9,10-ethano-anthracene | OC(CC12C3=CC=CC=C3C(C=3C=CC=CC13)CC2)C#N | C19H17NO
